US04698352
In 12 ml of N,N-dimethylformamide was dissolved 0.6 g of methyl 1-(3-nitro-4-fluorophenyl)-6-(4-dimethylaminophenyl)-4-oxo-1,4-dihydronicotinate and to this solution was added 0.2 g of 5% by weight palladium carbon, and the above ester was hydrogenated under atmospheric pressure for 2 hours. Then, the catalyst was removed by filtration and the solvent was removed by distillation under reduced pressure. The resulting residue was dissolved in a mixture consisting of 2 ml of ethanol and 2 ml of a 1N aqueous sodium hydroxide solution, and the solution was subjected to reaction at room temperature for one hour. This reaction mixture was mixed with 10 ml of water and 10 ml of chloroform, and the mixture was adjusted to a pH of 5.5 with acetic acid. The organic layer was separated, washed successively with 10 ml of water and 10 ml of a saturated aqueous solution of sodium chloride, and dried with anhydrous magnesium sulfate. Then the solvent was removed by distillation under reduced pressure, and the residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform/ethanol (100:1 by volume) mixture) to obtain 0.1 g of 1-(3-amino-4-fluorophenyl)-6-(4-dimethylaminophenyl)-4-oxo-1,4-dihydronicotinic acid having a melting point of 198°-201° C.

reactant | methyl 1-(3-nitro-4-fluorophenyl)-6-(4-dimethylaminophenyl)-4-oxo-1,4-dihydronicotinate | 0.6 g | [N+](=O)([O-])C=1C=C(C=CC1F)N1C=C(C(=O)OC)C(C=C1C1=CC=C(C=C1)N(C)C)=O | C21H18FN3O5
reactant | water | 10 ml | O | H2O
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
catalyst | palladium carbon | [C].[Pd]
product | 1-(3-amino-4-fluorophenyl)-6-(4-dimethylaminophenyl)-4-oxo-1,4-dihydronicotinic acid | 0.1 g | NC=1C=C(C=CC1F)N1C=C(C(=O)O)C(C=C1C1=CC=C(C=C1)N(C)C)=O | C20H18FN3O3
